* C:\users\akash\Desktop\ActiveFiltersPractice\Project\Transconductor_Bias_Width_Calculation.asc
M1 N002 N005 N003 N003 TSMC35N l=0.5u w=104.2u
V1 N005 0 1.65V
V2 N003 0 0.83V
V3 N002 0 1.65V
M2 N001 N004 0 0 TSMC35N l=0.5u w=23.2u
V4 N004 0 1V
V6 N001 0 0.83V
M3 N006 P001 N007 N006 TSMC35P l=0.5u w=3.6u
V5 P001 0 1.65V
V7 N006 0 3.3V
V8 N007 0 1.65V
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\akash\My Documents\LTspiceXVII\lib\cmp\standard.mos
.include /home/akash/.wine/dosdevices/c:/users/akash/Desktop/ActiveFiltersPractice/tsmc035.lib
.op
.backanno
.end
